US06498159B1
A mixture of 15 g 4-piperidinecarboxamide, 16.3 g benzyl chloride, 32.3 g potassium carbonate and 200 ml N,N-dimethylformamide was stirred at 80° C. for 4 hr. The reaction solution was returned to room temperature, and aqueous sodium hydroxide was added thereto, and then it was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and then evaporated. The resulting crystalline residue was washed with hexane/ethyl acetate and collected by filtration. 12.7 g of 1-benzyl-4-piperidine carboxamide was obtained as white flaky crystals.

reactant | 4-piperidinecarboxamide | 15 g | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | benzyl chloride | 16.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 32.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-4-piperidine carboxamide | 12.7 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)N | C13H18N2O
